Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Demerol / Ativan
 
Attending: ___
 
Chief Complaint:
nausea, vomiting, abdominal pain
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ yo man w/hx of DM1, gastroparesis, s/p pancreas tx ___ on 
Prograf and Cellcept, now presents with nausea/vomiting, 
abdominal pain consistent with prior episodes of gastroparesis. 
Nausea and vomiting all started this morning after he woke up. 
He tried taking oral antiemetics, but did not improve. He had 
approximately 15 episodes of vomiting, and presented to ED for 
furthe evaluation. He denies fevers, chills, hematemesis. Denies 
ETOH use. He describes his pain as sharp, in LUQ, consistent 
with prior episodes. He had a BM prior to presentation in ER.
.
In the ED, initial vital signs were 98.9, 135/86, 96, 16, 
100%RA. He received zofran, morphine 4 mg IV x 2, dilaudid 1 mg 
IV x 1, phenergan x 2 with some relief of nausea and pain. He 
had a KUB which was negative for acute pathology. Vitals at time 
of transfer were 99.4, 86, 121/78, 16, 95%RA.
.
Currently, he continues to have nausea with dry heaving. Says 
his abdominal pain is similar in location and quality to past 
episodes. He denies urinary symptoms. He denies cough, shortness 
of breath, sputum production, or fever.
 
Past Medical History:
Pancreatic transplant ___  
DM2 c/b gastroparesis, peripheral neuropathy  
Hep C  
Glaucoma  
?Seizures  
Right knee surgery 

 
Social History:
___
Family History:
NC
 
Physical Exam:
Vitals - 100.3 152/100 88 14 100%RA
GENERAL: young man, breathing comfortably, answer questions 
appropriately
HEENT: no scleral icterus
CARDIAC: regular rate and rhythm, normal S1/S2, no murmurs
LUNG: clear bilaterally anterior fields
ABDOMEN: moderate diffuse tenderness particularly in LUQ without 
rebound. some voluntary guarding, hypoactive bowel sounds
EXT: warm and well-perfused, non-edematous
NEURO: alert and oriented x3, moving all extremities
SKIN: numerous tattoos
 
Pertinent Results:
Labs on admission:

___ 07:25PM   WBC-7.6 RBC-4.30* HGB-13.0*# HCT-38.3* MCV-89 
MCH-30.3 MCHC-34.0 RDW-14.7
___ 07:25PM   PLT COUNT-407
___ 07:25PM   NEUTS-87.8* LYMPHS-6.6* MONOS-3.6 EOS-1.8 
BASOS-0.2
___ 07:25PM   ALBUMIN-5.0*
___ 07:25PM   LIPASE-24
___ 07:25PM   ALT(SGPT)-11 AST(SGOT)-22 ALK PHOS-107 TOT 
BILI-0.4
___ 07:25PM   GLUCOSE-96 UREA N-21* CREAT-1.1 SODIUM-140 
POTASSIUM-5.1 CHLORIDE-104 TOTAL CO2-24 ANION GAP-17
___ 07:15AM   ___ PTT-26.1 ___
___ 07:15AM   tacroFK-5.6

___ 12:20AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-50 BILIRUBIN-NEG UROBILNGN-1 PH-8.0 LEUK-NEG

IMAGING:
KUB (___): IMPRESSION: Nonspecific bowel gas pattern with no 
evidence of obstruction

CULTURES:
Urine (___): <10,000 colonies
Blood (___): No growth to date.
 
Brief Hospital Course:
___ yo man w/hx of DM1, gastroparesis, s/p pancreas tx ___ on 
Prograf and Cellcept, now presents with nausea/vomiting and 
abdominal pain consistent with prior episodes of gastroparesis.

# Gastroparesis: The patient's symptoms were consistent with 
previous episodes of gastroparesis and resolved with antiemetics 
(zofran, compazine, phenergan) and morphine. IV fluids were 
given until the patient was able to tolerate PO. KUB ruled out 
obstruction or perforation. LFTs and lipase were unremarkable. 
Mr. ___ did have a single fever to 100.3.  Blood cultures 
were drawn and have been negative to date.  Urine cultures were 
negative. There was no evidence of perforation on KUB.  There 
was no evidence of respiratory etiology on exam. There were no 
further temperature spikes and no source of infection was 
identified.
The patient has been receiving narcotics on each hospitalization 
for gastroparesis.  Since this is not an ideal agent for 
gastroparesis or abdominal pain, he was weaned from pain 
medications on this admission. Fentanyl patch dose was reduced 
from 75mcg (home dose) to 50mcg. He was discharged on a limited 
supply of PO morphine as abdominal pain had not completely 
resolved on discharge. He was advised to follow up with PCP in 
terms of fentanyl patch dosing and pain management.

# S/p pancreatic transplant: There was no evidence of rejection 
on admission. Tacrolimus level was 5.6 on admission. Myfortic 
was stopped.  He was started on Mycophenolate Mofetil 250mg BID 
and sirolimus 3mg PO Qdaily and continued on tacrolimus.  
Mycophenolate mofetil will be stopped once sirolimus is 
therapeutic. He was instructed to have tacrolimus and sirolimus 
levels checked on ___, which will be followed by Dr. 
___.  He was continued on bactrim prophylaxis.  He was also 
given a prescription for Nepro supplement Qdaily.

 
Medications on Admission:
-mycophenolate sodium 360 mg TID
-Bactrim SS qday
-omeprazole 20mg qday
-Diazepam 10mg q6h prn for anxiety
-Dronabinol 10mg tid
-duloxetine 90mg qday
-gabapentin 600mg q8h
-metoclopramide 20mg qidachs
-topiramate 25mg qday prn for headaches
-fentanyl 75mcg patch q72h
-aspirin 81mg qday
-tacrolimus 4mg q12h
-compazine 10mg q12h prn
-Phenergan 25 mg Q8H PRN
 
Discharge Medications:
1. Trimethoprim-Sulfamethoxazole 80-400 mg Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
2. Diazepam 10 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for anxiety.  
3. Dronabinol 10 mg Capsule Sig: One (1) Capsule PO three times 
a day.  
4. Gabapentin 600 mg Tablet Sig: One (1) Tablet PO every eight 
(8) hours.  
5. Metoclopramide 10 mg Tablet Sig: Two (2) Tablet PO QIDACHS 
PRN as needed for nausea.  
6. Tacrolimus 1 mg Capsule Sig: Four (4) Capsule PO Q12H (every 
12 hours).  
7. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO BID (2 times a day).  
8. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
9. Sirolimus 1 mg Tablet Sig: Three (3) Tablet PO once a day.
Disp:*180 Tablet(s)* Refills:*2*
10. Phenergan 25 mg Tablet Sig: One (1) Tablet PO Q8H PRN as 
needed for nausea.  
11. Duloxetine 30 mg Capsule, Delayed Release(E.C.) Sig: Three 
(3) Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
12. Compazine 10 mg Tablet Sig: One (1) Tablet PO Q12H PRN as 
needed for nausea.  
13. Mycophenolate Mofetil 250 mg Capsule Sig: One (1) Capsule PO 
BID (2 times a day).
Disp:*60 Capsule(s)* Refills:*2*
14. Fentanyl 50 mcg/hr Patch 72 hr Sig: One (1) Patch 72 hr 
Transdermal Q72H (every 72 hours).
Disp:*5 Patch 72 hr(s)* Refills:*2*
15. Outpatient Lab Work
Please have tacrolimus and rapamycin levels drawn in morning on 
___. Levels to be sent to Dr. ___
16. Morphine 15 mg Tablet Sig: One (1) Tablet PO Q6-8H PRN as 
needed for pain.
Disp:*10 Tablet(s)* Refills:*0*
17. Nepro 0.08-1.80 gram-kcal/mL Liquid Sig: One (1)  PO once a 
day.
Disp:*1 month supply* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Diabetic gastroparesis
2. Dehydration
3. Pancreatic transplant

 
Discharge Condition:
Stable, tolerating PO. Afebrile. 

 
Discharge Instructions:
You were admitted to ___ on ___ for nausea and vomiting 
secondary to diabetic gastroparesis.  You were unable to 
tolerate your immunosuppressant medications and you were 
dehydrated.

While you were hospitalized, we did an Xray of your abdomen, but 
there was no evidence of obstruction.  You had a fever, but 
blood cultures and urine cultures are negative for infection to 
date. 

We gave you anti-nausea medications and IV fluids. We also gave 
you pain medications for your abdominal pain.  You will receive 
a limited supply of oral morphine. In general, however, 
narcotics may increase your symptoms from gastroparesis. We are 
also decreasing your fentanyl patch from 75mcg to 50mcg. 

You should continue to take your other medications as prescribed 
EXCEPT, you should STOP taking myfortic 360mg three times a day. 
START taking sirolimus 3 mg once a day. START taking 
Mycophenolate Mofetil 250mg twice a day.  You will need to get 
levels of sirolimus and prograf on ___ and these results 
will be faxed to Dr. ___.

Please return to the ER or call your doctor if you have 
nausea/vomiting to the extent that you cannot keep down fluids 
or medications, fevers/chills, chest pain, shortness of breath, 
bloody stools, or any other symptoms concerning to you.
 
Followup Instructions:
___